US07700642B2
2.07 g of 1-methyl-2-phenyl-1H-indole, 1.32 g of 1,1-dimethoxy-3-butanone and 12 mL of acetic acid were mixed, then, 313 mg of 35 wt % hydrochloric acid was added into the mixture at room temperature, the added mixture was stirred for about 14 hours at the same temperature to cause a reaction. At a time point about 10 minutes after starting of stirring and reaction, blue solid precipitated to render stirring difficult. Therefore, 8 mL of acetic acid was added. After completion of the reaction, 60 mL of water was added dropwise, and the precipitated crystals were filtrated. The crystals were washed with 10 vol % methanol/water, then, dried to obtain 2.44 g of trans-4-[1-methyl-2-phenyl-1H-indol-3-yl]-3-buten-2-one (blue green solid). Yield: 89%.

reactant | 1-methyl-2-phenyl-1H-indole | 2.07 g | CN1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C15H13N
reactant | 1,1-dimethoxy-3-butanone | 1.32 g | COC(CC(C)=O)OC | C6H12O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | trans-4-[1-methyl-2-phenyl-1H-indol-3-yl]-3-buten-2-one | 2.44 g, Yield: 89% | CN1C(=C(C2=CC=CC=C12)/C=C/C(C)=O)C1=CC=CC=C1 | C19H17NO
